US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(3,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide
Using a solution of N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (200 mg, 0.613 mmol) and 1-(3,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid (244 mg, 0.919 mmol) in N,N-dimethylacetamide (2.0 mL), HATU (350 mg, 0.919 mmol) and N,N-diisopropylethylamine (160 μL, 0.919 mmol) and in the same manner as in Example 44, the title compound (301 mg, 86%) was obtained as a white solid.

reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.613 mmol, 200 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | 1-(3,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.919 mmol, 244 mg | FC=1C=C(C=CC1F)N1C(C(=CC=C1C)C(=O)O)=O | C13H9F2NO3
reactant | HATU | 0.919 mmol, 350 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.919 mmol, 160 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylacetamide | 2.0 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(3,4-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide | 301 mg, 86% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C(=CC2)C)C2=CC(=C(C=C2)F)F)=O)F)C1 | C30H22F3N5O4
